US08461158B2
To a suspension of N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinyl}sulfonyl)ethyl]-N,N-dimethylamine from the previous step in MeOH (100 mL) was added a slight excess of 1.25 M HCl in MeOH (0.45 mL). The resulting clear solution was concentrated to dryness. The residue was recrystallized from MeOH/EtOAc to give 0.51 g (83% yield for the last two steps) of N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinyl}sulfonyl)ethyl]-N,N-dimethylamine hydrochloride: mp (MeOH/EtOAc) 222-224° C.; Anal. Calcd. for C24H34ClF2N9O4S: C, 46.6; H, 5.5; N, 20.4; Cl, 5.7. Found: C, 46.3; H, 5.7; N, 20.0; Cl, 5.7%.

reactant | N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinyl}sulfonyl)ethyl]-N,N-dimethylamine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)S(=O)(=O)CCN(C)C)C=CC=C2OC)F | C24H33F2N9O4S
reactant | HCl | 1.25 M | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 0.45 mL | CO | CH4O
product | N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinyl}sulfonyl)ethyl]-N,N-dimethylamine hydrochloride | 83% yield | Cl.FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)S(=O)(=O)CCN(C)C)C=CC=C2OC)F | InChI=1S/C24H33F2N9O4S.ClH/c1-31(2)13-16-40(36,37)34-9-7-32(8-10-34)22-28-23(33-11-14-39-15-12-33)30-24(29-22)35-17-5-4-6-18(38-3)19(17)27-21(35)20(25)26;/h4-6,20H,7-16H2,1-3H3;1H
